US05616579
70(a) N-[5-(4-Piperidinomethyl-2-pyridyloxy)pentyl]-2-(2-hydroxyethylthio)acetamide
Following a procedure similar to that described in Example 68, but using 5-(4-piperidinomethyl-2-pyridyloxy)pentylamine and 1,4-oxathian-2-one as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 78% yield.

reactant | 5-(4-piperidinomethyl-2-pyridyloxy)pentylamine | N1(CCCCC1)CC1=CC(=NC=C1)OCCCCCN | C16H27N3O
reactant | 1,4-oxathian-2-one | O1C(CSCC1)=O | C4H6O2S
product | N-[5-(4-Piperidinomethyl-2-pyridyloxy)pentyl]-2-(2-hydroxyethylthio)acetamide | 78% yield | N1(CCCCC1)CC1=CC(=NC=C1)OCCCCCNC(CSCCO)=O | C20H33N3O3S
